US09340506B2
A solution of 2-amino-5-bromothiazole (2.6 g, 14.68 mmol), pyrazole (1 g, 14.68 mmol) and cesium carbonate (11.92 g, 36.7 mmol) in DMF (29 mL) was heated at 55° C. for 1 hr under argon argon atmosphere. After 1 hr, 2-amino-5-bromothiazole (2.6 g, 14.68 mmol) was added and continued for next 1 hr. Reaction mixture was cooled to rt and poured over ice cold water (200 mL), extracted with ethylacetate (4×100 mL), washed with brine solution, dried over anhydrous sodium sulfate, filtered and concentrated under reduced pressure. Crude compound was purified by silica gel column chromatography using 60% ethyl acetate in hexane as eluent to afford pure 5-pyrazol-1-yl-5H-thiazol-2-amine (0.2 g).

reactant | 2-amino-5-bromothiazole | 14.68 mmol, 2.6 g | NC=1SC(=CN1)Br | C3H3BrN2S
reactant | pyrazole | 14.68 mmol, 1 g | N1N=CC=C1 | C3H4N2
reactant | cesium carbonate | 36.7 mmol, 11.92 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 2-amino-5-bromothiazole | 14.68 mmol, 2.6 g | NC=1SC(=CN1)Br | C3H3BrN2S
solvent | DMF | 29 mL | CN(C)C=O | C3H7NO
product | 5-pyrazol-1-yl-5H-thiazol-2-amine | 0.2 g | N1(N=CC=C1)C1C=NC(S1)N | C6H8N4S
